US07674807B2
3-Methyl-4-nitrobenzyl chloride (0.77 g), 4-bromo-3-trifluoromethyl-1H-pyrazole (0.90 g) and potassium carbonate (0.57 g) were stirred in DMF (10 ml) at room temperature for 2 hours. The reaction solution was diluted with ethyl acetate and washed with water and saturated aqueous solution of sodium chloride. After drying the organic layer with magnesium sulfate, the solvent was distilled off under the reduced pressure and the obtained residue was purified by silica gel column chromatography to obtain 1-(3-methyl-4-nitrobenzyl)-4-bromo-3-trifluoromethyl-1H-pyrazole (0.9 g).

reactant | 3-Methyl-4-nitrobenzyl chloride | 0.77 g | CC=1C=C(CCl)C=CC1[N+](=O)[O-] | C8H8ClNO2
reactant | 4-bromo-3-trifluoromethyl-1H-pyrazole | 0.90 g | BrC=1C(=NNC1)C(F)(F)F | C4H2BrF3N2
reactant | potassium carbonate | 0.57 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(3-methyl-4-nitrobenzyl)-4-bromo-3-trifluoromethyl-1H-pyrazole | 0.9 g | CC=1C=C(CN2N=C(C(=C2)Br)C(F)(F)F)C=CC1[N+](=O)[O-] | C12H9BrF3N3O2
